US08022062B2
(±)-2-(1-Hydroxyethyl)-5-methylthiophene:
Add sodium borohydride (270 mg, 7.13 mmol) to a solution of 2-acetyl-5-methylthiophene (1.0 g, 7.13 mmol) in methanol (40 mL). Stir the mixture for 1 h at room temperature. Remove the solvent in vacuo and partition the residue between water and DCM. Separate the organic phase, dry over Na2SO4, filter and concentrate to obtain the desired intermediate as an oil (0.995 g, 98%) that was used without further purification. GC-MS m/z 142 (M+).

reactant | sodium borohydride | 7.13 mmol, 270 mg | [BH4-].[Na+]
reactant | 2-acetyl-5-methylthiophene | 7.13 mmol, 1.0 g | C(C)(=O)C=1SC(=CC1)C | C7H8OS
solvent | methanol | 40 mL | CO | CH4O
product | (±)-2-(1-Hydroxyethyl)-5-methylthiophene | 0.995 g, 98% | OC(C)C=1SC(=CC1)C | C7H10OS
